US06372770B1
(b) 5-Chloro-2-[2-(3,4-dimethoxyphenyl)ethyl]Benzoxazole
N-[3-(3,4-dimethoxyphenyl)propanoyl-2-hydroxy-5-chloro-aniline (2.3 g, 6.3 mmol) in toluene (30 ml) and p-toluenesulfonic acid monohydrate (0.3 g, 1.5 mmol) was heated under reflux for 3 hours. The cooled reaction mixture was decanted from some tar and the toluene was evaporated. The residue was crystallized from t-butyl methyl ether with charcoal to give 1.3 g of the title compound which was recrystallized from t-butyl methyl ether to give pure title compound (1.08 g) mp 102-105° C.

reactant | 3-(3,4-dimethoxyphenyl)propanoyl-2-hydroxy-5-chloro-aniline | 6.3 mmol, 2.3 g | COC=1C=C(C=CC1OC)CCC(=O)NC1=C(C=CC(=C1)Cl)O | C17H18ClNO4
reactant | p-toluenesulfonic acid monohydrate | 1.5 mmol, 0.3 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Chloro-2-[2-(3,4-dimethoxyphenyl)ethyl]Benzoxazole | 1.3 g | ClC=1C=CC2=C(N=C(O2)CCC2=CC(=C(C=C2)OC)OC)C1 | C17H16ClNO3
